US05002966
5-[3-[(6-Bromohexyl)oxy]-1-propynyl]-N,N-diethyl-2-furancarboxamide
5-Bromo-N,N-diethyl-2-furancarboxamide (2.0 g) was treated with 3-[(6-bromohexyl)oxy]-1-propyne (1.87 g) according to the method of Intermediate 9 except that the reaction mixture was stirred under nitrogen at 60° for 4 h, and hexane-ether (5:1 then 2:1 then 1:1) was used as the eluant for FCC. This afforded the title compound as a dark yellow oil (2.98 g), t.l.c. (diethyl ether) Rf 0.35.

reactant | 5-Bromo-N,N-diethyl-2-furancarboxamide | 2.0 g | BrC1=CC=C(O1)C(=O)N(CC)CC | C9H12BrNO2
reactant | 3-[(6-bromohexyl)oxy]-1-propyne | 1.87 g | BrCCCCCCOCC#C | C9H15BrO
product | 5-[3-[(6-Bromohexyl)oxy]-1-propynyl]-N,N-diethyl-2-furancarboxamide | 2.98 g | BrCCCCCCOCC#CC1=CC=C(O1)C(=O)N(CC)CC | C18H26BrNO3
